US05547975
3-Methoxythiophenol (5.70 g, 41 mmol) was placed in a flask with acrylic acid (2.36 g, 33 mmol) and stirred at room temperature for 113.8 hours. The reaction mixture was dissolved in ether and extracted with 10% Na2CO3. The aqueous layer was acidified with concentrated HCl, extracted with ether, dried over MgSO4, and concentrated in vacuo to give the 3-(3-methoxyphenylthio)propanoic acid (2.55 g, 37%) as a white solid: mp 39°-42° C.; 1H NMR (CDCl3) 300 MHz 7.21 (m, 1H) 6.91 (m, 2H) 6.77 (d, J=8.3 Hz, 1H) 3.79 (s, 3H) 3.16 (t, J=7.5 Hz, 2H) 2.68 (t, J=7.3 Hz, 2H).

reactant | 3-Methoxythiophenol | 41 mmol, 5.70 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | acrylic acid | 33 mmol, 2.36 g | C(C=C)(=O)O | C3H4O2
solvent | ether | CCOCC | C4H10O
product | 3-(3-methoxyphenylthio)propanoic acid | 2.55 g, 37% | COC=1C=C(C=CC1)SCCC(=O)O | C10H12O3S
